US03946009
The 2-hydroxy-3,6-dimethylpyrazine disclosed by Baxter et al can be reacted with phosphorus oxychloride by the method described in Preparation 13, Step B, to provide 2-chloro-3,6-dimethylpyrazine.

reactant | 2-hydroxy-3,6-dimethylpyrazine | OC1=NC(=CN=C1C)C | C6H8N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-3,6-dimethylpyrazine | ClC1=NC(=CN=C1C)C | C6H7ClN2
